data/mechanism_extracts/ChinJCatal/10.1016_S1872-2067(23)64510-3_sup_1.json
{"doi": "10.1016_S1872-2067(23)64510-3_sup_1", "journal": "ChinJCatal", "is_review": false, "rxn_class_summary": "Electrochemical oxidative coupling of dimethyl 2-(4-methoxybenzyl)malonate with alkenes/alkynes proceeding via an anodically generated benzylic/malonyl radical that undergoes radical-polar crossover and ipso-cyclization onto the p-methoxyaryl ring with water as the oxygen source", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of the malonate substrate (mediated by ferrocene/ferrocenium as a redox mediator) generates a tertiary C-centered (malonyl/benzylic) radical; subsequent oxidation of a cyclohexadienyl radical intermediate to a cation enables nucleophilic trapping by H2O", "key_intermediates": [{"name": "tertiary malonyl/benzylic C-centered radical from 1a", "smiles": "COC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1", "role": "transient"}, {"name": "homo-coupling dimer (radical-radical combination product)", "smiles": "COC1=CC=C(CC(C(=O)OC)(C(=O)OC)C(C(=O)OC)(C(=O)OC)CC2=CC=C(OC)C=C2)C=C1", "role": "off_pathway"}, {"name": "thiophene radical-trapped adduct", "smiles": null, "role": "transient"}, {"name": "spirocyclohexadienone-type cation (ipso-cyclization intermediate)", "smiles": null, "role": "reactive"}, {"name": "ferrocenium (Fc+) mediator", "smiles": null, "role": "transient"}], "electron_flow": "Ferrocene is oxidized at the anode to Fc+, which oxidizes the malonate 1a to a tertiary C-radical; this radical adds to the alkene/alkyne, the resulting radical undergoes ipso-cyclization onto the p-methoxyaryl ring, and the cyclohexadienyl radical is further oxidized to a cation that is trapped by H2(18)O to deliver the spirocyclohexadienone with 18O incorporation; H2 is evolved at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "no radical trap (homo-coupling control)", "smiles": null, "purpose": "intermediate_trap", "observation": "Homo-coupled dimer of 1a isolated in 33% yield, supporting a C-radical intermediate"}, {"name": "2-methylthiophene", "smiles": "Cc1ccc(s1)", "purpose": "radical_trap", "observation": "Radical addition/coupling product with thiophene isolated in 39% yield, consistent with a free C-radical"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Desired cyclization product not detected (n.d.); reaction suppressed, indicating a radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Desired product not detected (n.d.); radical intermediates are intercepted"}, {"name": "H2(18)O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Product shows 18O:16O > 20:1 incorporation in the cyclohexadienone carbonyl, demonstrating water as the O source"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "H/D_labeling", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Mechanism supported by (i) isolation of homo-coupling dimer, (ii) thiophene radical trapping, (iii) complete suppression with TEMPO and BHT, and (iv) >20:1 18O incorporation from H2(18)O establishing water as the oxygen source in the spirocyclohexadienone product. Ferrocene functions as a single-electron-transfer mediator at the anode."}
